US07723367B2
[2,3′]Bipyridinyl-3-carbonitrile
Prepared in 84% yield from 2-chloro-3-cyanopyridine and 3-(tributylstannyl)pyridine according to the procedure described for Example 164A. MS (ESI+) m/z 182.0 (M+H)+; 1H NMR (CDCl3) δ 7.44-7.51 (m, 2H), 8.13 (dd, J=7.8, 1.7 Hz, 1H), 8.27-8.31 (m, 1H), 8.77 (d, J=4.7 Hz, 1H), 8.93 (dd, J=8.9, 1.9 Hz, 1H), 9.19 (br s, 1H).

reactant | 2-chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 3-(tributylstannyl)pyridine | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
product | [2,3′]Bipyridinyl-3-carbonitrile | 84% yield | N1=C(C(=CC=C1)C#N)C=1C=NC=CC1 | C11H7N3
